US07618975B2
(2-Chloro-quinazolin-4-yl)-(2,3-dimethoxy-phenyl)-amine
The title compound was prepared from 2,4-dichloroquinazoline and 2,3-dimethoxyaniline by a procedure similar to example 28 (84% yield). 1H NMR (CDCl3): 8.57 (s, broad, 1H), 8.38 (d, J=8.4 Hz, 1H), 7.77-7.86 (m, 3H), 7.55-7.61 (m, 1H), 7.15 (t, J=8.7 Hz, 1H), 6.73-6.75 (m, 1H), 4.00 (s, 3H), 3.91 (s, 3H).

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | 2,3-dimethoxyaniline | COC1=C(N)C=CC=C1OC | C8H11NO2
product | (2-Chloro-quinazolin-4-yl)-(2,3-dimethoxy-phenyl)-amine | ClC1=NC2=CC=CC=C2C(=N1)NC1=C(C(=CC=C1)OC)OC | C16H14ClN3O2
